2124-05-11 09:23:00 Physician Attending Progress Note
Chief Complaint: ETOH withdrawl, acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    yo man admitted with ETOH intoxication, severe metabolic acidosis.
   Overnight patient with increased withdrawl symptoms, became
   increasingly hypoxemic, and required 150mg over two hours.  Was
   intubated.  Stable on propofol.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2124-5-10**] 09:37 AM
 INVASIVE VENTILATION - START [**2124-5-10**] 08:00 PM
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2124-5-10**] 07:04 PM
   Heparin Sodium (Prophylaxis) - [**2124-5-11**] 01:00 AM
   Pantoprazole (Protonix) - [**2124-5-11**] 01:23 AM
   Diazepam (Valium) - [**2124-5-11**] 01:23 AM
   Other medications:
   lopressor
   levoflox
   thiamine
   folate
   nicotine
   medrol 80mg q8h
   albuterol
   flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-11**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.5
C (97.7
   HR: 79 (79 - 117) bpm
   BP: 128/78(90) {102/65(74) - 183/124(132)} mmHg
   RR: 22 (12 - 42) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,506 mL
                                                                  1,081 mL
   PO:
                                                                  1,050 mL
             TF:
   IVF:
                                                                  3,456 mL
                                                                    991 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    580 mL
   Urine:
                                                                  2,160 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,066 mL
                                                                    501 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 19
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.28/41/136/20/-6
   Ve: 12.6 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   57 K/uL
   132 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.9 mEq/L
   26 mg/dL
   117 mEq/L
   146 mEq/L
   28.3 %
   3.9 K/uL
        [image002.jpg]
                             [**2124-5-10**]  05:42 AM
                             [**2124-5-10**]  07:07 AM
                             [**2124-5-10**]  11:44 AM
                             [**2124-5-10**]  08:37 PM
                             [**2124-5-10**]  10:59 PM
                             [**2124-5-10**]  11:43 PM
                             [**2124-5-11**]  12:24 AM
                             [**2124-5-11**]  01:24 AM
                             [**2124-5-11**]  04:05 AM
                             [**2124-5-11**]  07:44 AM
   WBC
   3.2
   3.9
   Hct
   28.6
   29.4
   28.3
   Plt
   69
   57
   Cr
   1.7
   1.5
   1.2
   1.0
   TropT
   <0.01
   TCO2
   16
   23
   24
   23
   22
   20
   Glucose
   93
   119
   156
   132
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:654/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:55.0 %, Band:26.0 %,
   Lymph:16.0 %, Mono:1.0 %, Eos:0.0 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   ETOH withdrawl:  Stable on propofol.  On thiamine, folate.
   PNA:  Large RLL infiltrate, CAP- (not severe) continue levoflox
   C. diff +:  On flagyl
   AG acidosis: Closed, now with hyperchloremic acidosis likely due to IV
   NS
   ARF:  Creatinine much improved.
   Light brown NGT drainage, stool is black.  Continue PPI
   COPD:  was wheezing previously, but now with no wheezing.  Will stop
   steroids.
   Respiratory failure:  Continue current vent settings
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-5-9**] 08:00 PM
   20 Gauge - [**2124-5-9**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2124-05-12 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Abdominal Xray without obstruction, but still ? output; thus, held
   tube feeds
   - increased levo to 750 IV
   - d/c steroids
   - decreased propofol as no longer tachycardic, hypertensive
   - RSBI good, on SBT with planned extubation in AM
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Metronidazole - [**2124-5-12**] 02:08 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-5-12**] 12:14 AM
   Heparin Sodium (Prophylaxis) - [**2124-5-12**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-12**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 77 (70 - 91) bpm
   BP: 150/91(105) {119/76(86) - 162/100(114)} mmHg
   RR: 26 (16 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,172 mL
                                                                    842 mL
   PO:
             TF:
   IVF:
                                                                  3,082 mL
                                                                    842 mL
   Blood products:
   Total out:
                                                                  1,562 mL
                                                                    570 mL
   Urine:
                                                                  1,332 mL
                                                                    370 mL
   NG:
                                                                    230 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,610 mL
                                                                    272 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.28/41/136/25/-6
   Ve: 12 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube, NG tube
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: CTAB anteriorly, no w/r/r
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no c/c/e
   Neurologic: sedated, intubated
   Labs / Radiology
   70 K/uL
   9.3 g/dL
   124 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.4 mEq/L
   20 mg/dL
   117 mEq/L
   147 mEq/L
   28.2 %
   6.0 K/uL
        [image002.jpg]
                             [**2124-5-10**]  11:44 AM
                             [**2124-5-10**]  08:37 PM
                             [**2124-5-10**]  10:59 PM
                             [**2124-5-10**]  11:43 PM
                             [**2124-5-11**]  12:24 AM
                             [**2124-5-11**]  01:24 AM
                             [**2124-5-11**]  04:05 AM
                             [**2124-5-11**]  07:44 AM
                             [**2124-5-11**]  07:40 PM
                             [**2124-5-12**]  03:43 AM
   WBC
   3.9
   6.0
   Hct
   29.4
   28.3
   28.2
   Plt
   57
   70
   Cr
   1.5
   1.2
   1.0
   0.8
   0.7
   TCO2
   23
   24
   23
   22
   20
   Glucose
   119
   156
   132
   140
   124
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:654/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:74.0 %, Band:20.0 %, Lymph:6.0
   %, Mono:0.0 %, Eos:0.0 %, Albumin:2.5 g/dL, LDH:346 IU/L, Ca++:7.2
   mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   54 y.o. M w/ a h/o ETOH abuse presents after being found down, c/b DTs
   and now intubated, + c. diff infection.
   # ETOH withdrawal: Overnight, patient became hypertensive, agitated,
   tachycardic, had high requirements of valium and was intubated for
   airway protection.  Likely 48 hours from last drink
   - continue propofol gtt
   - thiamin, folate, MVI
   - valium prn
   # Pneumonia: aspiration vs. community acquired.
   - levofloxacin and flagyl x 5 days
   - send sputum culture
   - daily CXR
   # Bandemia: likely in setting of stress and infection.
   - add on diff today
   - continue abx
   # Non-AG acidosis: likely secondary to NS resuscitation. Lactate
   normalized.
   - started D5 1/2 NS
   # ARF: baseline Cr normal.  Much improved after aggressive hydration.
   Una <10. Patient clinically remains dry, despite aggressive IV fluid.
   - maintenance IV D5
   - dose meds renally
   - avoid nephrotoxins
   - [**Hospital1 **] lytes
   # Dark OGT output: ? stool
   - f/u abd XR read
   - monitor
   - hold TF for now
   # Rhabdomyolysis: CK trending down. Likely due to immobilization
   - IV fluids
   # COPD: less wheezing today
   - stop steroids
   - continue nebs
   # C. difficile infection:
   - continue flagyl
   # Smoking:  nicotine patch
   #  NSVT: non sustained VT on tele in ER.   Aggressive electrolyte
   monitorinig and repletion. Correcting acidosis and potassium repletion
   (will need to monitor for hyperkalemia off HCO3 gtt as K released again
   from cells). Likely [**12-20**] electrolytes.
   -continue beta blocker- metoprolol 25mg po bid
   -monitor on tele
   # Hypoglycemia: FS QIADCHS and HISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-5-9**] 08:00 PM
   20 Gauge - [**2124-5-9**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-05-12 10:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo man with ETOH withdrawl, acidosis which as resolved.  Currently
   sedated.  Also found to be C. diff +
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Metronidazole - [**2124-5-12**] 02:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-5-12**] 12:14 AM
   Heparin Sodium (Prophylaxis) - [**2124-5-12**] 12:14 AM
   Other medications:
   lopressor
   protonix
   heparin
   asa
   propofol (off since this morning)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-12**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 77 (70 - 91) bpm
   BP: 150/91(105) {127/79(90) - 162/100(114)} mmHg
   RR: 26 (16 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,172 mL
                                                                  1,402 mL
   PO:
             TF:
   IVF:
                                                                  3,082 mL
                                                                  1,402 mL
   Blood products:
   Total out:
                                                                  1,562 mL
                                                                  1,020 mL
   Urine:
                                                                  1,332 mL
                                                                    820 mL
   NG:
                                                                    230 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,610 mL
                                                                    382 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 544 (544 - 544) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 11 cmH2O
   Plateau: 19 cmH2O
   Compliance: 56.8 cmH2O/mL
   SpO2: 99%
   ABG: ///25/
   Ve: 12.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed, moveing
   all extremities, but no following commands
   Labs / Radiology
   9.3 g/dL
   70 K/uL
   124 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.4 mEq/L
   20 mg/dL
   117 mEq/L
   147 mEq/L
   28.2 %
   6.0 K/uL
        [image002.jpg]
                             [**2124-5-10**]  11:44 AM
                             [**2124-5-10**]  08:37 PM
                             [**2124-5-10**]  10:59 PM
                             [**2124-5-10**]  11:43 PM
                             [**2124-5-11**]  12:24 AM
                             [**2124-5-11**]  01:24 AM
                             [**2124-5-11**]  04:05 AM
                             [**2124-5-11**]  07:44 AM
                             [**2124-5-11**]  07:40 PM
                             [**2124-5-12**]  03:43 AM
   WBC
   3.9
   6.0
   Hct
   29.4
   28.3
   28.2
   Plt
   57
   70
   Cr
   1.5
   1.2
   1.0
   0.8
   0.7
   TCO2
   23
   24
   23
   22
   20
   Glucose
   119
   156
   132
   140
   124
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:654/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:74.0 %, Band:20.0 %, Lymph:6.0
   %, Mono:0.0 %, Eos:0.0 %, Albumin:2.5 g/dL, LDH:346 IU/L, Ca++:7.2
   mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Respiratory failure:  aspiration PNA, on Levo/flagyl.  Also needs to
   wake up and be more interactive before attempting extubation
   ETOH withdrawl;  propofol off, watch closely for withdrawl
   C. Diff:  on flagyl
   hypervolemia:  lasix for some diuresis (is 13L positive).
   ICU Care
   Nutrition:
   Comments: restart TFs
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-5-9**] 08:00 PM
   20 Gauge - [**2124-5-9**] 08:00 PM
   Comments: may need PIC line
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2124-05-13 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2124-5-12**] 01:42 PM
 BLOOD CULTURED - At [**2124-5-12**] 01:43 PM
 BLOOD CULTURED - At [**2124-5-12**] 01:43 PM
 FEVER - 101.8
F - [**2124-5-12**] 02:00 PM
   - T 101.8, cultured, KUB obtained w/o abnormality
   - on IV valium 10 q6 standing and q2 prn
   - propofol discontinued at 6 a.m. on [**5-12**] then restarted overnight for
   6 hours for agitation
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Levofloxacin - [**2124-5-12**] 12:00 PM
   Metronidazole - [**2124-5-13**] 02:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2124-5-12**] 06:22 PM
   Pantoprazole (Protonix) - [**2124-5-12**] 11:54 PM
   Heparin Sodium (Prophylaxis) - [**2124-5-12**] 11:54 PM
   Diazepam (Valium) - [**2124-5-13**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-13**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.1
C (98.7
   HR: 101 (87 - 109) bpm
   BP: 153/93(107) {141/81(93) - 214/133(144)} mmHg
   RR: 20 (17 - 38) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,447 mL
                                                                    247 mL
   PO:
             TF:
                                                                     30 mL
   IVF:
                                                                  2,267 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                  4,600 mL
                                                                    810 mL
   Urine:
                                                                  4,400 mL
                                                                    810 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,153 mL
                                                                   -563 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 462 (462 - 752) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.46/42/91/31/5
   Ve: 9.8 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube, NG tube
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: CTAB anteriorly, no w/r/r
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no c/c/e
   Neurologic: sedated, intubated, very somnolent but following commands
   Labs / Radiology
   75 K/uL
   9.9 g/dL
   88 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.1 mEq/L
   11 mg/dL
   111 mEq/L
   147 mEq/L
   28.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2124-5-10**]  10:59 PM
                             [**2124-5-10**]  11:43 PM
                             [**2124-5-11**]  12:24 AM
                             [**2124-5-11**]  01:24 AM
                             [**2124-5-11**]  04:05 AM
                             [**2124-5-11**]  07:44 AM
                             [**2124-5-11**]  07:40 PM
                             [**2124-5-12**]  03:43 AM
                             [**2124-5-12**]  06:29 PM
                             [**2124-5-13**]  04:35 AM
   WBC
   3.9
   6.0
   4.6
   Hct
   28.3
   28.2
   28.9
   Plt
   57
   70
   75
   Cr
   1.0
   0.8
   0.7
   0.6
   TCO2
   23
   24
   23
   22
   20
   31
   Glucose
   132
   140
   124
   88
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:129/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:58.4 %, Band:20.0 %,
   Lymph:34.3 %, Mono:5.8 %, Eos:1.3 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   54 y.o. M w/ a h/o ETOH abuse presents after being found down, c/b DTs
   and now intubated, + c. diff infection.
   # ETOH withdrawal:
   -intubated, more hemodynamically stable now while on propofol-
   discontinue proprol and wean back onto valium
   - thiamin, folate, MVI
   - restart valium when awake
   # Pneumonia: aspiration vs. community acquired.
   - levofloxacin and flagyl x 5 days
   - f/u sputum cx
   -repeat cbc w/ diff tomorrow
   - daily CXR
   # Bandemia: likely in setting of stress and infection.
   - trend diff
   - continue abx
   # ARF: resolved
   -attempting diuresis now
   - [**Hospital1 **] lytes
   # COPD: less wheezing
   - have discontinued steroids
   - continue nebs
   # C. difficile infection:
   - continue flagyl x 14 days
   # Smoking:  nicotine patch
   #  NSVT: non sustained VT on tele in ER.
   -beta blocker, echo w/o significant structural abnormality, was in the
   setting of electrolyte abnormalities
   # Hypoglycemia: FS QIADCHS and HISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-5-12**] 01:51 PM
   18 Gauge - [**2124-5-13**] 04:56 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2124-05-13 09:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Fever - 101.8
F - [**2124-5-12**] 02:00 PM
   - No stool output - unremarkable KUB (done to r/o megacolon)
   - Agitated o/n - propofol restarted
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Levofloxacin - [**2124-5-12**] 12:00 PM
   Metronidazole - [**2124-5-13**] 02:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2124-5-12**] 06:22 PM
   Pantoprazole (Protonix) - [**2124-5-12**] 11:54 PM
   Heparin Sodium (Prophylaxis) - [**2124-5-12**] 11:54 PM
   Diazepam (Valium) - [**2124-5-13**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-13**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.2
C (99
   HR: 97 (87 - 106) bpm
   BP: 157/87(103) {141/81(93) - 214/133(144)} mmHg
   RR: 22 (17 - 38) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,448 mL
                                                                    689 mL
   PO:
             TF:
                                                                     30 mL
   IVF:
                                                                  2,268 mL
                                                                    329 mL
   Blood products:
   Total out:
                                                                  4,600 mL
                                                                  1,260 mL
   Urine:
                                                                  4,400 mL
                                                                  1,260 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,152 mL
                                                                   -571 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 379 (379 - 752) mL
   PS : 5 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.46/42/91/31/5
   Ve: 14.3 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Non -purposeful,
   Sedated, Tone: Not assessed, Not following commands
   Labs / Radiology
   9.9 g/dL
   75 K/uL
   88 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.1 mEq/L
   11 mg/dL
   111 mEq/L
   147 mEq/L
   28.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2124-5-10**]  10:59 PM
                             [**2124-5-10**]  11:43 PM
                             [**2124-5-11**]  12:24 AM
                             [**2124-5-11**]  01:24 AM
                             [**2124-5-11**]  04:05 AM
                             [**2124-5-11**]  07:44 AM
                             [**2124-5-11**]  07:40 PM
                             [**2124-5-12**]  03:43 AM
                             [**2124-5-12**]  06:29 PM
                             [**2124-5-13**]  04:35 AM
   WBC
   3.9
   6.0
   4.6
   Hct
   28.3
   28.2
   28.9
   Plt
   57
   70
   75
   Cr
   1.0
   0.8
   0.7
   0.6
   TCO2
   23
   24
   23
   22
   20
   31
   Glucose
   132
   140
   124
   88
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:129/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:58.4 %, Band:20.0 %,
   Lymph:34.3 %, Mono:5.8 %, Eos:1.3 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   54 y.o. M w/ a h/o ETOH abuse presents after being found down, c/b DTs
   and now intubated, + c. diff infection.
   # ETOH withdrawal:
   -intubated, more hemodynamically stable now while on propofol-
   discontinue proprol and wean back onto valium
   - thiamin, folate, MVI
   - restart valium when awake
   # Pneumonia: aspiration vs. community acquired.
   - levofloxacin and flagyl x 5 days
   - f/u sputum cx
   -repeat cbc w/ diff tomorrow
   - daily CXR
   # Bandemia: likely in setting of stress and infection.
   - trend diff
   - continue abx
   # ARF: resolved
   -attempting diuresis now
   - [**Hospital1 **] lytes
   # COPD: less wheezing
   - have discontinued steroids
   - continue nebs
   # C. difficile infection:
   - continue flagyl x 14 days
   # Smoking:  nicotine patch
   #  NSVT: non sustained VT on tele in ER.
   -beta blocker, echo w/o significant structural abnormality, was in the
   setting of electrolyte abnormalities
   # Hypoglycemia: FS QIADCHS and HISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-5-12**] 01:51 PM
   18 Gauge - [**2124-5-13**] 04:56 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes
   Patient is critically ill

2124-05-14 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -mental status cleared over course of day.
   -tolerated standing doses of valium and used fentanyl boluses for
   sedation during the day
   -Given 10 mg IV lasix with good UOP, gave 2nd dose at 6 pm
   -Repleted K after pm draw
   -Plan for extubation in am.
   -secretions much less after diuresis and scopolamine patch
   -PICC attempted today and was coiled in arm so removed, will need IR
   picc
   -Left arm swelling noted on night shift, ultrasound ordered.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Levofloxacin - [**2124-5-13**] 11:53 AM
   Metronidazole - [**2124-5-14**] 02:30 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2124-5-13**] 10:10 AM
   Fentanyl - [**2124-5-13**] 05:00 PM
   Furosemide (Lasix) - [**2124-5-13**] 06:07 PM
   Pantoprazole (Protonix) - [**2124-5-13**] 09:39 PM
   Heparin Sodium (Prophylaxis) - [**2124-5-13**] 09:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-14**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 101 (86 - 113) bpm
   BP: 141/74(89) {113/65(75) - 157/100(111)} mmHg
   RR: 25 (21 - 51) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,045 mL
                                                                    747 mL
   PO:
             TF:
                                                                    222 mL
                                                                    304 mL
   IVF:
                                                                    773 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                  3,255 mL
                                                                    250 mL
   Urine:
                                                                  3,255 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,210 mL
                                                                    497 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 449 (379 - 927) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 14.8 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, Anxious, Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   72 K/uL
   10.1 g/dL
   90 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   12 mg/dL
   110 mEq/L
   146 mEq/L
   30.3 %
   4.3 K/uL
        [image002.jpg]
                             [**2124-5-11**]  12:24 AM
                             [**2124-5-11**]  01:24 AM
                             [**2124-5-11**]  04:05 AM
                             [**2124-5-11**]  07:44 AM
                             [**2124-5-11**]  07:40 PM
                             [**2124-5-12**]  03:43 AM
                             [**2124-5-12**]  06:29 PM
                             [**2124-5-13**]  04:35 AM
                             [**2124-5-13**]  03:55 PM
                             [**2124-5-14**]  12:01 AM
   WBC
   3.9
   6.0
   4.6
   4.3
   Hct
   28.3
   28.2
   28.9
   30.3
   Plt
   57
   70
   75
   72
   Cr
   1.0
   0.8
   0.7
   0.6
   0.5
   0.6
   TCO2
   23
   22
   20
   31
   Glucose
   132
   140
   124
   88
   92
   90
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:129/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:58.4 %, Band:20.0 %,
   Lymph:34.3 %, Mono:5.8 %, Eos:1.3 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.5 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   54 y.o. M w/ a h/o ETOH abuse presents after being found down, c/b DTs
   and now intubated, + c. diff infection.
   # ETOH withdrawal:
   -continue valium standing 10mg IV q6hrs and prn
   - thiamine, folate, MVI
   - will need to monitor closely after extubation.
   # Pneumonia: aspiration vs. community acquired.
   - levofloxacin and flagyl x 5 days
   - f/u sputum cx
final with GNR, but no speciation
will d/w micro
   - daily CXR
   -extubate
   # ARF: resolved
   -attempting diuresis now with 10 mg IV Lasix doses. Goal 1 L neg if
   able
   - [**Hospital1 **] lytes with diuresis
   # COPD: nebs on the vent. Off Steroids
   # C. difficile infection:
   - continue flagyl x 14 days ([**2124-5-24**])
   # Smoking:  nicotine patch
   #  NSVT: non sustained VT on tele in ER.
   -beta blocker, echo w/o significant structural abnormality, was in the
   setting of electrolyte abnormalities
   -Had another event of 11 beat NSVT this am.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-5-14**] 02:12 AM 60 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-5-13**] 04:56 AM
   20 Gauge - [**2124-5-13**] 05:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2124-05-14 10:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 y.o. M w/ a h/o ETOH abuse presents after being found down, c/b DTs
   and now intubated, + c. diff infection.
   24 Hour Events:
   diuresed w/ lasix yesterday. decreased secretions w/ diuresis and
   scopolamine. PICC attempt at bedside unsuccessful. 11-beat run of NSVT
   noted this am, asymptomatic and spontaneously resolved
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Levofloxacin - [**2124-5-13**] 11:53 AM
   Metronidazole - [**2124-5-14**] 02:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-5-13**] 09:39 PM
   Heparin Sodium (Prophylaxis) - [**2124-5-13**] 09:39 PM
   Furosemide (Lasix) - [**2124-5-14**] 06:43 AM
   Fentanyl - [**2124-5-14**] 08:07 AM
   Other medications:
   metoprolol, nicotine patch, ASA, propofol gtt, albuterol, ipratropium,
   Peridex, valium, thiamine, folate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-14**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.3
C (97.4
   HR: 91 (86 - 113) bpm
   BP: 161/85(103) {113/65(75) - 161/93(105)} mmHg
   RR: 20 (20 - 51) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,045 mL
                                                                  1,068 mL
   PO:
             TF:
                                                                    222 mL
                                                                    400 mL
   IVF:
                                                                    773 mL
                                                                    428 mL
   Blood products:
   Total out:
                                                                  3,255 mL
                                                                  1,015 mL
   Urine:
                                                                  3,255 mL
                                                                  1,015 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,210 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 415 (415 - 927) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 12.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   72 K/uL
   90 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   12 mg/dL
   110 mEq/L
   146 mEq/L
   30.3 %
   4.3 K/uL
        [image002.jpg]
                             [**2124-5-11**]  12:24 AM
                             [**2124-5-11**]  01:24 AM
                             [**2124-5-11**]  04:05 AM
                             [**2124-5-11**]  07:44 AM
                             [**2124-5-11**]  07:40 PM
                             [**2124-5-12**]  03:43 AM
                             [**2124-5-12**]  06:29 PM
                             [**2124-5-13**]  04:35 AM
                             [**2124-5-13**]  03:55 PM
                             [**2124-5-14**]  12:01 AM
   WBC
   3.9
   6.0
   4.6
   4.3
   Hct
   28.3
   28.2
   28.9
   30.3
   Plt
   57
   70
   75
   72
   Cr
   1.0
   0.8
   0.7
   0.6
   0.5
   0.6
   TCO2
   23
   22
   20
   31
   Glucose
   132
   140
   124
   88
   92
   90
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:129/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:58.4 %, Band:20.0 %,
   Lymph:34.3 %, Mono:5.8 %, Eos:1.3 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.5 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: Mg- 1.5 (repleted)
   Imaging: CXR ([**5-14**])- poss RLL/ RML infiltrate more apparent today than
   previously
   L UENI ([**5-13**])- pending
   Microbiology: [**5-12**] Blood and urine- pending
   [**5-11**] Sputum- GNRs and GPCs
   Assessment and Plan
   # Intubation: for ETOH withdrawal and airway protection, possible
   aspiration, also w/ underlying COPD and possible fluid overload
   - extubate today
   - complete ABX course w/ levofloxacin + metronidazole, f/u sputum cx
   data
   - continue lasix diuresis
   - prn nebulizers
   # ETOH withdrawal
   - thiamine, folate, MV
   - will need SW
   # C. difficile infection:
   - continue flagyl x 14 days
   # L UE swelling: ultrasound study pending
   # NSVT: monitor lytes, presumed increased sympathetic tone off sedation
   with ETT
   -cont metoprolol and tele monitoring
   -extubation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-5-13**] 05:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2124-05-15 05:40:00 Physician Resident Progress Note
24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-5-14**] 10:55 AM
   - extubated
   - mental status confused, ? korsakoff
   - IR guided PICC in AM (reeval if he still needs this)
   - increased free water for hypernatremia
   - d/c levofloxacin
   - S&S, PT, OT consults placed
   - able to swallow pills, but likely aspirating chronically
   - I/O -1.3 L, gave IV lasix 10 mg x 2
   - increased metoprolol to 50 mg TID, gave IV hydral x 2 for SBP 180s
   - agitated and gave zyprexa x 1
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Levofloxacin - [**2124-5-13**] 11:53 AM
   Metronidazole - [**2124-5-15**] 02:09 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2124-5-14**] 08:07 AM
   Pantoprazole (Protonix) - [**2124-5-14**] 08:17 PM
   Furosemide (Lasix) - [**2124-5-14**] 08:45 PM
   Morphine Sulfate - [**2124-5-14**] 08:57 PM
   Heparin Sodium (Prophylaxis) - [**2124-5-14**] 10:09 PM
   Diazepam (Valium) - [**2124-5-15**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-15**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 87 (86 - 106) bpm
   BP: 140/91(103) {126/67(84) - 194/104(125)} mmHg
   RR: 35 (20 - 35) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,851 mL
                                                                    256 mL
   PO:
             TF:
                                                                    400 mL
   IVF:
                                                                  1,211 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  3,165 mL
                                                                    560 mL
   Urine:
                                                                  3,165 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,314 mL
                                                                   -304 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 415 (415 - 415) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 3%
   PIP: 11 cmH2O
   SpO2: 91%
   ABG: ///25/
   Ve: 12.7 L/min
   Physical Examination
   General Appearance: Well nourished, agitated, swearing, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition,
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: DP pulses 2+ symmetric
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: coarse,
   bronchial breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+ edema
   Neurologic: AOx2, moving all extremities, not cooperating with CN
   assessment
   Labs / Radiology
   137 K/uL
   9.5 g/dL
   90 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   12 mg/dL
   106 mEq/L
   141 mEq/L
   28.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2124-5-11**]  01:24 AM
                             [**2124-5-11**]  04:05 AM
                             [**2124-5-11**]  07:44 AM
                             [**2124-5-11**]  07:40 PM
                             [**2124-5-12**]  03:43 AM
                             [**2124-5-12**]  06:29 PM
                             [**2124-5-13**]  04:35 AM
                             [**2124-5-13**]  03:55 PM
                             [**2124-5-14**]  12:01 AM
                             [**2124-5-15**]  04:22 AM
   WBC
   3.9
   6.0
   4.6
   4.3
   5.1
   Hct
   28.3
   28.2
   28.9
   30.3
   28.5
   Plt
   57
   70
   75
   72
   137
   Cr
   1.0
   0.8
   0.7
   0.6
   0.5
   0.6
   0.7
   TCO2
   22
   20
   31
   Glucose
   132
   140
   124
   88
   92
   90
   90
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:129/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:58.4 %, Band:20.0 %,
   Lymph:34.3 %, Mono:5.8 %, Eos:1.3 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   54 y.o. M w/ a h/o ETOH abuse presents after being found down, c/b DTs
   and + c. diff infection.
   ETOH withdrawal: Initially required very large doses of IV valium and
   course complicated by intubation.  Now extubated, satting well and
   taking PO valium.
   - will transition to CIWA q4H
   - continue thiamine, folate, MVI
   Pneumonia: aspiration vs. community acquired.
   - Completed levofloxacin x 5 days on [**2124-5-13**]
   - f/u sputum cx
final with GNR, but no speciation
will d/w micro
   - now off supplemental O2
   - aspiration precautions
   - currently NPO with the exception of valium pending speech and swallow
   evaluation hopefully tomorrow
   C. difficile infection:
   - continue flagyl x 14 days ([**2124-5-24**])
   ARF: resolved and diuresing well.
   - Diuresing with 10 mg IV Lasix doses. Goal 1 L neg if able
   - [**Hospital1 **] lytes with diuresis including phosphorus
   COPD: nebs on the vent. Off Steroids
   Smoking:  nicotine patch
   NSVT: non sustained VT on tele in ER.  Has not been an issue in the
   ICU.
   - beta blocker, echo w/o significant structural abnormality, was in the
   setting of electrolyte abnormalities
   - Replete lytes aggressively
   - will discontinue telemetry on transfer to the floor
   ICU Care
   Nutrition: NPO pending speech and swallow eval
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-5-15**] 04:24 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor today

2124-05-15 10:56:00 Physician Attending Progress Note
Chief Complaint: ETOH W/D, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with ETOH withdrawl, PNA, respiatory failure.  Extubated
   yesterday, and doing well.  Still confused at times.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-5-14**] 10:55 AM
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Levofloxacin - [**2124-5-13**] 11:53 AM
   Metronidazole - [**2124-5-15**] 02:09 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-5-14**] 08:45 PM
   Morphine Sulfate - [**2124-5-14**] 08:57 PM
   Diazepam (Valium) - [**2124-5-15**] 04:30 AM
   Pantoprazole (Protonix) - [**2124-5-15**] 08:41 AM
   Heparin Sodium (Prophylaxis) - [**2124-5-15**] 08:41 AM
   Other medications:
   protonix
   nicotine
   folate
   thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2124-5-15**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.3
   HR: 98 (86 - 112) bpm
   BP: 158/94(110) {134/67(84) - 194/104(125)} mmHg
   RR: 35 (20 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,851 mL
                                                                    635 mL
   PO:
             TF:
                                                                    400 mL
   IVF:
                                                                  1,211 mL
                                                                    635 mL
   Blood products:
   Total out:
                                                                  3,165 mL
                                                                  1,100 mL
   Urine:
                                                                  3,165 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,314 mL
                                                                   -465 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : mild expiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, moving all
   extremeties
   Labs / Radiology
   9.5 g/dL
   137 K/uL
   90 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   12 mg/dL
   106 mEq/L
   141 mEq/L
   28.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2124-5-11**]  01:24 AM
                             [**2124-5-11**]  04:05 AM
                             [**2124-5-11**]  07:44 AM
                             [**2124-5-11**]  07:40 PM
                             [**2124-5-12**]  03:43 AM
                             [**2124-5-12**]  06:29 PM
                             [**2124-5-13**]  04:35 AM
                             [**2124-5-13**]  03:55 PM
                             [**2124-5-14**]  12:01 AM
                             [**2124-5-15**]  04:22 AM
   WBC
   3.9
   6.0
   4.6
   4.3
   5.1
   Hct
   28.3
   28.2
   28.9
   30.3
   28.5
   Plt
   57
   70
   75
   72
   137
   Cr
   1.0
   0.8
   0.7
   0.6
   0.5
   0.6
   0.7
   TCO2
   22
   20
   31
   Glucose
   132
   140
   124
   88
   92
   90
   90
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:129/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:58.4 %, Band:20.0 %,
   Lymph:34.3 %, Mono:5.8 %, Eos:1.3 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:0.8 mg/dL
   Assessment and Plan
   ETOH:  Withdrawl.  stop standing valium and just give as needed per
   CIWA scale
   altered MS:  Korsakoff's versus ICU delirium/valium effect.   Slowly
   improving.
   C. diff:  on flagyl
   PNA:  On levoflox
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-5-15**] 04:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Call out with sitter
   Total time spent: 35 minutes

2124-05-16 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient received intermittent HD in morning with removal of 2.5
   liters of ultrafiltrate but there was concern that his electrolytes and
   fluid balance have not been managed adequately since transitioning to
   intermittent HD.  He was switched back to CVVH this evening.
   - methadone weaned to 10 mg [**Hospital1 **]
   - started on low dose haldol PRN
   - CT torso significant for a segmental pulmonary embolism and he was
   started on heparin gtt.
   - Anemia labs notable for low iron, elevated ferritin, low reticulocyte
   count.  Iron/TIBC < 10% concerning for iron deficiency, started on
   iron.
   - Febrile to 101 degrees overnight
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Levofloxacin - [**2124-5-13**] 11:53 AM
   Metronidazole - [**2124-5-16**] 02:22 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2124-5-15**] 04:44 PM
   Lorazepam (Ativan) - [**2124-5-15**] 07:30 PM
   Metoprolol - [**2124-5-15**] 07:30 PM
   Pantoprazole (Protonix) - [**2124-5-15**] 07:59 PM
   Heparin Sodium (Prophylaxis) - [**2124-5-15**] 10:00 PM
   Hydralazine - [**2124-5-16**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Agitated, Delirious
   Allergy / Immunology: No(t) Immunocompromised
   Flowsheet Data as of  [**2124-5-16**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 112 (74 - 119) bpm
   BP: 144/52(78) {125/52(76) - 211/138(143)} mmHg
   RR: 28 (12 - 55) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  1,110 mL
                                                                    164 mL
   PO:
             TF:
   IVF:
                                                                  1,110 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                    790 mL
   Urine:
                                                                  2,380 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,270 mL
                                                                   -626 mL
   Respiratory support
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Wheezes : )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   No(t) Distended, No(t) Tender:
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   150 K/uL
   9.4 g/dL
   81 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.1 mEq/L
   12 mg/dL
   106 mEq/L
   140 mEq/L
   28.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2124-5-11**]  04:05 AM
                             [**2124-5-11**]  07:44 AM
                             [**2124-5-11**]  07:40 PM
                             [**2124-5-12**]  03:43 AM
                             [**2124-5-12**]  06:29 PM
                             [**2124-5-13**]  04:35 AM
                             [**2124-5-13**]  03:55 PM
                             [**2124-5-14**]  12:01 AM
                             [**2124-5-15**]  04:22 AM
                             [**2124-5-16**]  05:33 AM
   WBC
   3.9
   6.0
   4.6
   4.3
   5.1
   7.0
   Hct
   28.3
   28.2
   28.9
   30.3
   28.5
   28.6
   Plt
   57
   70
   75
   72
   137
   150
   Cr
   1.0
   0.8
   0.7
   0.6
   0.5
   0.6
   0.7
   0.7
   TCO2
   20
   31
   Glucose
   132
   140
   124
   88
   92
   90
   90
   81
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:129/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:58.4 %, Band:20.0 %,
   Lymph:34.3 %, Mono:5.8 %, Eos:1.3 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Imaging: Upper extremity ultrasound [**2124-5-14**]: No DVT of the left upper
   extremity.
   Microbiology: Blood and urine cultures from [**2124-5-12**] - no growth to date
   Clostridium difficile [**2124-5-10**] - negative
   Sputum culture [**2124-5-11**] -
   RESPIRATORY CULTURE (Final [**2124-5-13**]):
         SPARSE GROWTH OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S).    RARE GROWTH.
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 TRANSFERS, IMPAIRED
 .H/O ELECTROLYTE & FLUID DISORDER, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
 PNEUMONIA, ASPIRATION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   54 y.o. M w/ a h/o ETOH abuse presents after being found down, c/b DTs
   and + c. diff infection.
   ETOH withdrawal: Initially required very large doses of IV valium and
   course complicated by intubation.  Now extubated, satting well and
   taking PO valium.
   - will transition to CIWA q4H
   - continue thiamine, folate, MVI
   Pneumonia: aspiration vs. community acquired.
   - Completed levofloxacin x 5 days on [**2124-5-13**]
   - f/u sputum cx
final with GNR, but no speciation
will d/w micro
   - now off supplemental O2
   - aspiration precautions
   - currently NPO with the exception of valium pending speech and swallow
   evaluation hopefully tomorrow
   C. difficile infection:
   - continue flagyl x 14 days ([**2124-5-24**])
   ARF: resolved and diuresing well.
   - Diuresing with 10 mg IV Lasix doses. Goal 1 L neg if able
   - [**Hospital1 **] lytes with diuresis including phosphorus
   COPD: nebs on the vent. Off Steroids
   Smoking:  nicotine patch
   NSVT: non sustained VT on tele in ER.  Has not been an issue in the
   ICU.
   - beta blocker, echo w/o significant structural abnormality, was in the
   setting of electrolyte abnormalities
   - Replete lytes aggressively
   - will discontinue telemetry on transfer to the floor
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2124-5-15**] 04:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2124-05-16 10:14:00 Physician Attending Progress Note
Chief Complaint: ETOh withdrawl, respiratory failure, pneumonia, C.
   diff
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man.  persistently agitated - received zyprexa, haldol, and
   ativan.
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Levofloxacin - [**2124-5-13**] 11:53 AM
   Metronidazole - [**2124-5-16**] 09:40 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2124-5-15**] 04:44 PM
   Metoprolol - [**2124-5-15**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2124-5-16**] 08:00 AM
   Pantoprazole (Protonix) - [**2124-5-16**] 08:00 AM
   Hydralazine - [**2124-5-16**] 08:00 AM
   Lorazepam (Ativan) - [**2124-5-16**] 08:45 AM
   Other medications:
   protonix
   nicotine
   hep s/q
   asa
   folate
   thiamine
   fluconazole
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2124-5-16**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 89 (74 - 119) bpm
   BP: 132/92(99) {125/52(76) - 211/138(143)} mmHg
   RR: 22 (12 - 55) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,110 mL
                                                                    299 mL
   PO:
             TF:
   IVF:
                                                                  1,110 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                    940 mL
   Urine:
                                                                  2,380 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,270 mL
                                                                   -641 mL
   Respiratory support
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   150 K/uL
   81 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.1 mEq/L
   12 mg/dL
   106 mEq/L
   140 mEq/L
   28.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2124-5-11**]  04:05 AM
                             [**2124-5-11**]  07:44 AM
                             [**2124-5-11**]  07:40 PM
                             [**2124-5-12**]  03:43 AM
                             [**2124-5-12**]  06:29 PM
                             [**2124-5-13**]  04:35 AM
                             [**2124-5-13**]  03:55 PM
                             [**2124-5-14**]  12:01 AM
                             [**2124-5-15**]  04:22 AM
                             [**2124-5-16**]  05:33 AM
   WBC
   3.9
   6.0
   4.6
   4.3
   5.1
   7.0
   Hct
   28.3
   28.2
   28.9
   30.3
   28.5
   28.6
   Plt
   57
   70
   75
   72
   137
   150
   Cr
   1.0
   0.8
   0.7
   0.6
   0.5
   0.6
   0.7
   0.7
   TCO2
   20
   31
   Glucose
   132
   140
   124
   88
   92
   90
   90
   81
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:129/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:58.4 %, Band:20.0 %,
   Lymph:34.3 %, Mono:5.8 %, Eos:1.3 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   ETOH withdrawl:  Unclear if he is still withdrawing, but seems a little
   far out.  Continue CIWA scale
   Agitation:  haldol standing for agitation.  Unclear how much is
   withdrawl, is clearly confused, does not know year.  Unclear if this is
   acute or if he has some
   chronic dementia.
   COPD: on atrovent
   HTN:  on hydral IV.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-5-16**] 08:01 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2124-05-17 05:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started standing haldol with improvement in agitation.
   - NG tube placed and able to replete lytes prior to his pulling it.
   - Hypertension well controlled.
   - UOP dropped off this AM so repleted K in 1L NS.
   - Has only 1 x 22G IV for access.
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Metronidazole - [**2124-5-17**] 03:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-5-16**] 10:14 PM
   Pantoprazole (Protonix) - [**2124-5-16**] 10:38 PM
   Hydralazine - [**2124-5-16**] 10:38 PM
   Lorazepam (Ativan) - [**2124-5-17**] 12:03 AM
   Haloperidol (Haldol) - [**2124-5-17**] 12:20 AM
   Metoprolol - [**2124-5-17**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-17**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 95 (67 - 120) bpm
   BP: 166/82(103) {81/52(62) - 166/126(132)} mmHg
   RR: 24 (17 - 43) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    850 mL
                                                                    158 mL
   PO:
             TF:
   IVF:
                                                                    580 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  1,695 mL
                                                                    180 mL
   Urine:
                                                                  1,695 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -845 mL
                                                                    -22 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, no acute distress but easily
   agitated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   177 K/uL
   9.1 g/dL
   79 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.2 mEq/L
   13 mg/dL
   108 mEq/L
   141 mEq/L
   27.4 %
   6.9 K/uL
        [image002.jpg]
                             [**2124-5-11**]  07:44 AM
                             [**2124-5-11**]  07:40 PM
                             [**2124-5-12**]  03:43 AM
                             [**2124-5-12**]  06:29 PM
                             [**2124-5-13**]  04:35 AM
                             [**2124-5-13**]  03:55 PM
                             [**2124-5-14**]  12:01 AM
                             [**2124-5-15**]  04:22 AM
                             [**2124-5-16**]  05:33 AM
                             [**2124-5-17**]  04:27 AM
   WBC
   6.0
   4.6
   4.3
   5.1
   7.0
   6.9
   Hct
   28.2
   28.9
   30.3
   28.5
   28.6
   27.4
   Plt
   70
   75
   72
   137
   150
   177
   Cr
   0.8
   0.7
   0.6
   0.5
   0.6
   0.7
   0.7
   0.7
   TCO2
   20
   31
   Glucose
   140
   124
   88
   92
   90
   90
   81
   79
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:129/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:58.4 %, Band:20.0 %,
   Lymph:34.3 %, Mono:5.8 %, Eos:1.3 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   [**5-16**] CXR: IMPRESSION: Right lower lobe pneumonia improved.
   Assessment and Plan
   54 y.o. M w/ a h/o EtOH abuse presents after being found down, c/b DTs
   and + C. diff infection.
   Agitation: Initially with EtOH withdrawal which required very large
   doses of IV valium and course complicated by intubation.  Now
   extubated, satting well and taking PO valium.  Likely not in EtOH
   withdrawal anymore although still receiving frequent ativan; agitation
   likely with large component from underlying toxic-metabolic
   encephalopathy.
   - Halve ativan CIWA scale to avoid withdrawal
   - continue scheduled haldol with prn doses of haldol, xyprexa SL for
   agitation
   - Psych consult
   - D/c thiamine, folate, MVI as NPO and has already received several
   doses
   Aspiration risk: Patient presented with aspiration pna vs. community
   acquired Pneumonia. Per S&S, patient aspirating ->Placed NG tube but
   patient pulled it out shortly after placement.
   - Completed levofloxacin x 5 days on [**2124-5-13**]
   - now off supplemental O2
   - aspiration precautions
   - currently NPO, will ask speech and swallow to re-evaluate
   C. difficile infection:
   - continue flagyl x 14 days ([**2124-5-24**])
   ARF: resolved and diuresing well. Last dose lasix on [**5-14**].
   - Pt has been autodiuresing
   COPD: Off Steroids
   Smoking:  Nicotine patch
   NSVT: non sustained VT on tele in ER.  Has not been an issue in the
   ICU.
   - beta blocker, echo w/o significant structural abnormality, was in the
   setting of electrolyte abnormalities
   - Replete lytes aggressively
   - will discontinue telemetry on transfer to the floor
   ICU Care
   Nutrition: NPO now, await S&S
   Glycemic Control:
   Lines:
   22 Gauge - [**2124-5-16**] 10:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU pending above

2124-05-17 09:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with ETOH withdrawl.  Continued agitation, confusion, and
   delirium.   Pulled out NGT yesterday.
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Metronidazole - [**2124-5-17**] 03:10 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2124-5-17**] 04:45 AM
   Lorazepam (Ativan) - [**2124-5-17**] 06:32 AM
   Pantoprazole (Protonix) - [**2124-5-17**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2124-5-17**] 08:00 AM
   Hydralazine - [**2124-5-17**] 08:00 AM
   Haloperidol (Haldol) - [**2124-5-17**] 08:30 AM
   Other medications:
   protonix
   nicotine patch
   hep s/q
   asa
   flagyl
   miconazole
   lopressor
   hydral q6h
   MVI  folate thiamine haldol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-17**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 73 (67 - 120) bpm
   BP: 150/95(107) {81/56(62) - 166/126(132)} mmHg
   RR: 25 (20 - 43) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    850 mL
                                                                    719 mL
   PO:
             TF:
   IVF:
                                                                    580 mL
                                                                    719 mL
   Blood products:
   Total out:
                                                                  1,695 mL
                                                                    350 mL
   Urine:
                                                                  1,695 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -845 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   177 K/uL
   79 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.2 mEq/L
   13 mg/dL
   108 mEq/L
   141 mEq/L
   27.4 %
   6.9 K/uL
        [image002.jpg]
                             [**2124-5-11**]  07:44 AM
                             [**2124-5-11**]  07:40 PM
                             [**2124-5-12**]  03:43 AM
                             [**2124-5-12**]  06:29 PM
                             [**2124-5-13**]  04:35 AM
                             [**2124-5-13**]  03:55 PM
                             [**2124-5-14**]  12:01 AM
                             [**2124-5-15**]  04:22 AM
                             [**2124-5-16**]  05:33 AM
                             [**2124-5-17**]  04:27 AM
   WBC
   6.0
   4.6
   4.3
   5.1
   7.0
   6.9
   Hct
   28.2
   28.9
   30.3
   28.5
   28.6
   27.4
   Plt
   70
   75
   72
   137
   150
   177
   Cr
   0.8
   0.7
   0.6
   0.5
   0.6
   0.7
   0.7
   0.7
   TCO2
   20
   31
   Glucose
   140
   124
   88
   92
   90
   90
   81
   79
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:129/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:58.4 %, Band:20.0 %,
   Lymph:34.3 %, Mono:5.8 %, Eos:1.3 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   ETOH Withdrawl:  he seems to be out of the window of withdrawl
   Delirium:  Likely due, in part, to meds he is getting.  Will stop
   giving benzos and try and treat with haldol alone
   C. diff: on flagyl
   will hold off on placing a pic line for access until his agitation is
   better controlled
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2124-5-16**] 10:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2124-05-18 04:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2124-5-17**] 09:02 PM
   - Ativan for CIWA scale halved. Haldol increased to 5mg tid standing
   with continued prn. QT interval nl on tele. Ordered for AM EKG.
   - Psych consulted. Unable to assess as sedated but agree with standing
   haldol with prn doses for agitation. Recommended discontinuation of
   ativan with dosing only if unresponsive to repeat doses of haldol or
   clear signs of withdrawal. Recommended cont thiamine but discontinued
   today along w/ folate and MVI as NPO.
   - 3pm lytes...
   - seen by S&S and recommended for video study, to be done 9am tomorrow.
   - IV access lost. Unable to place PIV. Pt very agitated, swinging at
   RN. Given Zydis 5mg x 2. Unable to place U/S guided PIV. Given Haldol
   5mg IM + Ativan 2mg IM with improvement. Right fem line placed.
   - Hct s/p line placement decreased 27.4 -> 24.7. Repeat stable with no
   e/o active bleed. Hct reordered for 8am.
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Metronidazole - [**2124-5-18**] 04:19 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-5-17**] 08:15 PM
   Heparin Sodium (Prophylaxis) - [**2124-5-17**] 08:57 PM
   Lorazepam (Ativan) - [**2124-5-18**] 12:15 AM
   Hydralazine - [**2124-5-18**] 01:57 AM
   Haloperidol (Haldol) - [**2124-5-18**] 04:18 AM
   Metoprolol - [**2124-5-18**] 04:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-18**] 04:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 116 (68 - 123) bpm
   BP: 141/61(80) {132/61(80) - 178/105(123)} mmHg
   RR: 23 (18 - 48) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  1,983 mL
                                                                    530 mL
   PO:
             TF:
   IVF:
                                                                  1,983 mL
                                                                    530 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    210 mL
   Urine:
                                                                    850 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,133 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, no acute distress but easily
   agitated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   184 K/uL
   8.2 g/dL
   75 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.0 mEq/L
   11 mg/dL
   111 mEq/L
   142 mEq/L
   24.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2124-5-12**]  03:43 AM
                             [**2124-5-12**]  06:29 PM
                             [**2124-5-13**]  04:35 AM
                             [**2124-5-13**]  03:55 PM
                             [**2124-5-14**]  12:01 AM
                             [**2124-5-15**]  04:22 AM
                             [**2124-5-16**]  05:33 AM
                             [**2124-5-17**]  04:27 AM
                             [**2124-5-17**]  11:56 PM
                             [**2124-5-18**]  02:52 AM
   WBC
   6.0
   4.6
   4.3
   5.1
   7.0
   6.9
   6.2
   Hct
   28.2
   28.9
   30.3
   28.5
   28.6
   27.4
   24.7
   24.7
   Plt
   70
   75
   72
   137
   150
   177
   184
   Cr
   0.7
   0.6
   0.5
   0.6
   0.7
   0.7
   0.7
   0.6
   TCO2
   31
   Glucose
   124
   88
   92
   90
   90
   81
   79
   75
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:129/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:58.4 %, Band:20.0 %,
   Lymph:34.3 %, Mono:5.8 %, Eos:1.3 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   54 y.o. M w/ a h/o EtOH abuse presents after being found down, c/b DTs
   and + C. diff infection.
   Agitation: Initially with EtOH withdrawal which required very large
   doses of IV valium and course complicated by intubation.  Now
   extubated, satting well and taking PO valium.  Likely not in EtOH
   withdrawal anymore although still receiving frequent ativan; agitation
   likely with large component from underlying toxic-metabolic
   encephalopathy.
   - Halve ativan CIWA scale to avoid withdrawal
   - continue scheduled haldol with prn doses of haldol, xyprexa SL for
   agitation
   - Psych consult
   - D/c thiamine, folate, MVI as NPO and has already received several
   doses
   Aspiration risk: Patient presented with aspiration pna vs. community
   acquired Pneumonia. Per S&S, patient aspirating ->Placed NG tube but
   patient pulled it out shortly after placement.
   - Completed levofloxacin x 5 days on [**2124-5-13**]
   - now off supplemental O2
   - aspiration precautions
   - currently NPO, will ask speech and swallow to re-evaluate
   C. difficile infection:
   - continue flagyl x 14 days ([**2124-5-24**])
   ARF: resolved and diuresing well. Last dose lasix on [**5-14**].
   - Pt has been autodiuresing
   COPD: Off Steroids
   Smoking:  Nicotine patch
   NSVT: non sustained VT on tele in ER.  Has not been an issue in the
   ICU.
   - beta blocker, echo w/o significant structural abnormality, was in the
   setting of electrolyte abnormalities
   - Replete lytes aggressively
   - will discontinue telemetry on transfer to the floor
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-5-17**] 09:02 PM
   Prophylaxis:
   DVT:  SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2124-05-18 10:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo with ETOH withdrawl.  Continued delirium and agitation although
   out of window for withdrawl.
   Required IM haldol for agiation and femoral line.
   24 Hour Events:
 MULTI LUMEN - START [**2124-5-17**] 09:02 PM
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Metronidazole - [**2124-5-18**] 04:19 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2124-5-18**] 12:15 AM
   Hydralazine - [**2124-5-18**] 01:57 AM
   Haloperidol (Haldol) - [**2124-5-18**] 04:18 AM
   Metoprolol - [**2124-5-18**] 04:19 AM
   Pantoprazole (Protonix) - [**2124-5-18**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2124-5-18**] 09:00 AM
   Other medications:
   haldol 5mg tid
   hydral
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2124-5-18**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 82 (68 - 123) bpm
   BP: 139/65(84) {127/61(80) - 178/105(123)} mmHg
   RR: 27 (18 - 48) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,983 mL
                                                                  1,312 mL
   PO:
             TF:
   IVF:
                                                                  1,983 mL
                                                                  1,312 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    543 mL
   Urine:
                                                                    850 mL
                                                                    543 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,133 mL
                                                                    769 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   184 K/uL
   75 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.0 mEq/L
   11 mg/dL
   111 mEq/L
   142 mEq/L
   24.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2124-5-12**]  03:43 AM
                             [**2124-5-12**]  06:29 PM
                             [**2124-5-13**]  04:35 AM
                             [**2124-5-13**]  03:55 PM
                             [**2124-5-14**]  12:01 AM
                             [**2124-5-15**]  04:22 AM
                             [**2124-5-16**]  05:33 AM
                             [**2124-5-17**]  04:27 AM
                             [**2124-5-17**]  11:56 PM
                             [**2124-5-18**]  02:52 AM
   WBC
   6.0
   4.6
   4.3
   5.1
   7.0
   6.9
   6.2
   Hct
   28.2
   28.9
   30.3
   28.5
   28.6
   27.4
   24.7
   24.7
   Plt
   70
   75
   72
   137
   150
   177
   184
   Cr
   0.7
   0.6
   0.5
   0.6
   0.7
   0.7
   0.7
   0.6
   TCO2
   31
   Glucose
   124
   88
   92
   90
   90
   81
   79
   75
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:129/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:58.4 %, Band:20.0 %,
   Lymph:34.3 %, Mono:5.8 %, Eos:1.3 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Agitation:  Better controlled with haldol
   Speech and swallow study.
   access:  will need IR guided PIC line
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-5-17**] 09:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2124-05-19 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FLUOROSCOPY - At [**2124-5-18**] 02:44 PM
   - passed video swallow and was started on regular diet with thin
   liquids
   - continued on standing haldol with significant improvement in his
   mental status
   - Psyche recommended 5mg haldol TID, but appeared to do well with 2.5,
   also avoid benzos unless clear withdrawal and can use 5 mg haldol PRN
   for agitation or HS.
   - CIWA scale with ativan was discontinued
   - Unable to obtain IR guided PICC so remains with femoral line for
   access
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Metronidazole - [**2124-5-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-5-18**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2124-5-18**] 08:00 PM
   Hydralazine - [**2124-5-18**] 08:00 PM
   Metoprolol - [**2124-5-18**] 08:00 PM
   Haloperidol (Haldol) - [**2124-5-18**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-19**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 91 (74 - 128) bpm
   BP: 134/71(85) {110/51(67) - 158/115(125)} mmHg
   RR: 25 (16 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  1,806 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                  1,806 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,153 mL
                                                                    240 mL
   Urine:
                                                                  1,153 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    653 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, no acute distress but easily
   agitated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) NG tube
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest: Frequent coughing, otherwise clear
   Abdominal: Soft, Non-tender, non-distended
   Extremities: warm and well perfused, 2+ pulses, no clubbing, cyanosis
   or edema
   Labs / Radiology
   209 K/uL
   8.0 g/dL
   92 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.3 mEq/L
   8 mg/dL
   114 mEq/L
   144 mEq/L
   24.3 %
   5.3 K/uL
        [image002.jpg]
                             [**2124-5-13**]  04:35 AM
                             [**2124-5-13**]  03:55 PM
                             [**2124-5-14**]  12:01 AM
                             [**2124-5-15**]  04:22 AM
                             [**2124-5-16**]  05:33 AM
                             [**2124-5-17**]  04:27 AM
                             [**2124-5-17**]  11:56 PM
                             [**2124-5-18**]  02:52 AM
                             [**2124-5-18**]  10:49 AM
                             [**2124-5-19**]  05:00 AM
   WBC
   4.6
   4.3
   5.1
   7.0
   6.9
   6.2
   5.3
   Hct
   28.9
   30.3
   28.5
   28.6
   27.4
   24.7
   24.7
   24.4
   24.3
   Plt
   75
   72
   137
   150
   177
   184
   209
   Cr
   0.6
   0.5
   0.6
   0.7
   0.7
   0.7
   0.6
   Glucose
   88
   92
   90
   90
   81
   79
   75
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:129/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:58.4 %, Band:20.0 %,
   Lymph:34.3 %, Mono:5.8 %, Eos:1.3 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Imaging:
   VIDEO SWALLOW STUDY:
RECOMMENDATIONS:
1. PO diet: regular solids, thin liquids
2. PO meds whole with thin liquids
3. TID oral care
4. Distant supervision with meals to maintain aspiration
precautions and assist with self-feed as willing.
   Microbiology: None
   Assessment and Plan
   54 y.o. M w/ a h/o EtOH abuse presents after being found down, c/b DTs
   and + C. diff infection.
   Agitation: Initially with EtOH withdrawal which required very large
   doses of IV valium and course complicated by intubation.  Now
   extubated, satting well.  Likely not in EtOH withdrawal anymore
   although was receiving frequent ativan; agitation likely with large
   component from underlying toxic-metabolic encephalopathy.  Currently
   much improved on scheduled haldol.
   - d/c
d ativan but will monitor for
   withdrawal
   - continue scheduled haldol with prn doses of haldol for agitation
   - f/u Psych recs
   - Can restart thiamine.
   Aspiration risk: Patient presented with aspiration pna vs. community
   acquired Pneumonia. Initial S&S evaluation showed patient aspirating
   ->Placed NG tube but patient pulled it out shortly after placement.
   Repeat Video S&S showed no aspiration.
   - Completed levofloxacin x 5 days on [**2124-5-13**] for aspiration pna
   - now off supplemental O2
   - Regular diet with PO meds.
   IV Access: Currently with R Femoral line and ordered for IR guided PICC
   which is scheduled for [**2124-5-22**]
   C. difficile infection:
   - continue flagyl x 14 days ([**2124-5-24**]) and can switch to oral antibiotics
   ARF: resolved and diuresing well. Last dose lasix on [**5-14**].
   - Pt has been autodiuresing
   COPD: Off Steroids
   Smoking:  Nicotine patch
   NSVT: non sustained VT on tele in ER.  Has not been an issue in the
   ICU.
   - beta blocker, echo w/o significant structural abnormality, was in the
   setting of electrolyte abnormalities
   - Replete lytes aggressively
   - will discontinue telemetry on transfer to the floor
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-5-17**] 09:02 PM Right femoral.  Is ordered for IR
   guided PICC line.
   Prophylaxis:
   DVT:  SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2124-05-19 08:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Passed video swallow
   - Started on regular diet
   - Agitation controlled with Haldol
   - Episode of tachycardia resolved with scheduled BB
   Allergies:
   Penicillins
   Unknown; intra-
   Enalapril
   angioedema;
   Last dose of Antibiotics:
   Metronidazole - [**2124-5-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-5-18**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2124-5-18**] 08:00 PM
   Hydralazine - [**2124-5-18**] 08:00 PM
   Metoprolol - [**2124-5-18**] 08:00 PM
   Haloperidol (Haldol) - [**2124-5-18**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-19**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 87 (74 - 128) bpm
   BP: 129/72(86) {110/51(67) - 158/115(125)} mmHg
   RR: 36 (16 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  1,806 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                  1,806 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,153 mL
                                                                    290 mL
   Urine:
                                                                  1,153 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    653 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   209 K/uL
   92 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.3 mEq/L
   8 mg/dL
   114 mEq/L
   144 mEq/L
   24.3 %
   5.3 K/uL
        [image002.jpg]
                             [**2124-5-13**]  04:35 AM
                             [**2124-5-13**]  03:55 PM
                             [**2124-5-14**]  12:01 AM
                             [**2124-5-15**]  04:22 AM
                             [**2124-5-16**]  05:33 AM
                             [**2124-5-17**]  04:27 AM
                             [**2124-5-17**]  11:56 PM
                             [**2124-5-18**]  02:52 AM
                             [**2124-5-18**]  10:49 AM
                             [**2124-5-19**]  05:00 AM
   WBC
   4.6
   4.3
   5.1
   7.0
   6.9
   6.2
   5.3
   Hct
   28.9
   30.3
   28.5
   28.6
   27.4
   24.7
   24.7
   24.4
   24.3
   Plt
   75
   72
   137
   150
   177
   184
   209
   Cr
   0.6
   0.5
   0.6
   0.7
   0.7
   0.7
   0.6
   0.8
   Glucose
   88
   92
   90
   90
   81
   79
   75
   92
   Other labs: PT / PTT / INR:12.2/31.9/1.0, CK / CKMB /
   Troponin-T:129/34/<0.01, ALT / AST:56/112, Alk Phos / T Bili:61/0.7,
   Amylase / Lipase:/68, Differential-Neuts:58.4 %, Band:20.0 %,
   Lymph:34.3 %, Mono:5.8 %, Eos:1.3 %, Albumin:2.5 g/dL, LDH:346 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   54 y.o. M w/ a h/o EtOH abuse presents after being found down, c/b DTs
   and + C. diff infection.
   Agitation: Initially with EtOH withdrawal which required very large
   doses of IV valium and course complicated by intubation.  Now
   extubated, satting well.  Likely not in EtOH withdrawal anymore
   although was receiving frequent ativan; agitation likely with large
   component from underlying toxic-metabolic encephalopathy.  Currently
   much improved on scheduled haldol.
   - d/c
d ativan but will monitor for
   withdrawal
   - continue scheduled haldol with prn doses of haldol for agitation
   - f/u Psych recs
   - Can restart thiamine.
   Aspiration risk: Patient presented with aspiration pna vs. community
   acquired Pneumonia. Initial S&S evaluation showed patient aspirating
   ->Placed NG tube but patient pulled it out shortly after placement.
   Repeat Video S&S showed no aspiration.
   - Completed levofloxacin x 5 days on [**2124-5-13**] for aspiration pna
   - now off supplemental O2
   - Regular diet with PO meds.
   IV Access: Currently with R Femoral line and ordered for IR guided PICC
   which is scheduled for [**2124-5-22**]
   C. difficile infection:
   - continue flagyl x 14 days ([**2124-5-24**])
   ARF: resolved and diuresing well. Last dose lasix on [**5-14**].
   - Pt has been autodiuresing
   ICU Care
   Nutrition:
   Comments: Regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-5-17**] 09:02 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes